US04147793
2-(1,2,4-Triazol-1-yl)-3-phenylbutyrophenone
2-Bromo-3-phenyl-butyrophenone (0.02 mol), 1,2,4-triazole (0.02 mol) and potassium carbonate (0.04 mol) were refluxed in methyl ethyl ketone (100 ml) for 36 hours. After cooling to room temperature, the solution was filtered and the solvent removed in vacuo. Recrystallisation of the residue from ethanol/petroleum ether (60°-80°) gave the title compound as a colourless solid, m.p. 166°-8°.

reactant | 2-Bromo-3-phenyl-butyrophenone | 0.02 mol | BrC(C(=O)C1=CC=CC=C1)C(C)C1=CC=CC=C1 | C16H15BrO
reactant | 1,2,4-triazole | 0.02 mol | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 0.04 mol | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | 2-(1,2,4-Triazol-1-yl)-3-phenylbutyrophenone | N1(N=CN=C1)C(C(=O)C1=CC=CC=C1)C(C)C1=CC=CC=C1 | C18H17N3O
